US09388189B2
a) N-(5-Bromo-2-(ethylamino)pyridin-3-yl)-4-methoxybenzenesulfonamide
5-Bromo-N2-ethylpyridine-2,3-diamine (290 mg, 1.34 mmol, purchased from Aurora Building Blocks reference A01.414.067) was treated with 4-methoxybenzene-1-sulfonyl chloride (280 mg, 1.35 mmol) according to the method described in Preparation 15b to give 180 mg (35% yield) of the title compound as an oil. Purity 99%.

reactant | 5-Bromo-N2-ethylpyridine-2,3-diamine | 1.34 mmol, 290 mg | BrC=1C=C(C(=NC1)NCC)N | C7H10BrN3
reactant | 4-methoxybenzene-1-sulfonyl chloride | 1.35 mmol, 280 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | N-(5-Bromo-2-(ethylamino)pyridin-3-yl)-4-methoxybenzenesulfonamide | 180 mg, 35% yield | BrC=1C=C(C(=NC1)NCC)NS(=O)(=O)C1=CC=C(C=C1)OC | C14H16BrN3O3S
